### PR TITLE
[Merged by Bors] - feature(Analysis/LocallyConvex/Polar): Polar is weak*-closed

### PR DESCRIPTION
**Pull request by mans0954**
Show that the polar is weak*-closed.

Contributes to the proof of the bipolar theorem #21002, #20843

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
`#find_home! polar_isClosed` says `[Mathlib]`.

File: Mathlib/Analysis/LocallyConvex/Polar.lean [hunk 1]
```diff
@@ -60,6 +59,14 @@ theorem polar_mem_iff (s : Set E) (y : F) : y ∈ B.polar s ↔ ∀ x ∈ s, ‖
 theorem polar_mem (s : Set E) (y : F) (hy : y ∈ B.polar s) : ∀ x ∈ s, ‖B x y‖ ≤ 1 :=
   hy
 
+theorem polar_eq_biInter_preimage (s : Set E) :
+    B.polar s = ⋂ x ∈ s, ((B x) ⁻¹' Metric.closedBall (0 : 𝕜) 1) := by aesop
+
+theorem polar_isClosed (s : Set E) : IsClosed (X := WeakBilin B.flip) (B.polar s) := by
+  rw [polar_eq_biInter_preimage]
+  exact isClosed_biInter
+    (fun _ _ => IsClosed.preimage (WeakBilin.eval_continuous B.flip _) Metric.isClosed_closedBall)
```
Comment (j-loreaux) [inline Mathlib/Analysis/LocallyConvex/Polar.lean:68]:
```suggestion
    fun _ _ ↦ Metric.isClosed_closedBall.preimage (WeakBilin.eval_continuous B.flip _)
```

**Review by j-loreaux — COMMENTED** [review]
I think the import increase is okay here; the import seems reasonable.

bors d+
